US09233946B2
3-(p-Tolyl)-N-[3-(1H-tetrazol-5-yl)phenyl]benzenesulfonamide
The product was prepared according to General Procedure 1, described in Example 1, starting from [3-(4-methylphenyl)phenyl sulfonyl chloride (14.7 mg, 0.055 mmol) and 5-(3-aminophenyl)tetrazole (8.0 mg, 0.05 mmol) yielding 18.3 mg (19%) of the title compound. MS (ESI+) calcd for C20H17N5O2S 391.110296, found 391.110156.

reactant | 3-(4-methylphenyl)phenyl sulfonyl chloride | 0.055 mmol, 14.7 mg | CC1=CC=C(C=C1)C=1C=C(C=CC1)S(=O)(=O)Cl | C13H11ClO2S
reactant | 5-(3-aminophenyl)tetrazole | 0.05 mmol, 8.0 mg | NC=1C=C(C=CC1)C1=NN=NN1 | C7H7N5
product | 3-(p-Tolyl)-N-[3-(1H-tetrazol-5-yl)phenyl]benzenesulfonamide | 18.3 mg, 19% | C1(=CC=C(C=C1)C=1C=C(C=CC1)S(=O)(=O)NC1=CC(=CC=C1)C1=NN=NN1)C | C20H17N5O2S
